US08034811B2
O-(2-Methyl-thiazol-4-ylmethyl)-hydroxylamine hydrochloride
N-Hydroxyphthalimide (15.2 g) was dissolved in DMF (120 ml) and 4-chloromethyl-2-methyl-thiazole (18.4 g) was added. The mixture was cooled in an ice bath and a solution of triethylamine (28.6 ml) in DMF (30 ml) was added drop-wise. The cooling bath was removed and the reaction mixture was stirred at room temperature for 3 days. The mixture was poured into water (600 ml) and the precipitated material was isolated by filtration washed with water and dried in vacuo. This phthalimide intermediate (21.4 g) was refluxed in ethanol (150 ml) containing n-butylamine (7.7 ml) for 2.5 hours. The mixture was cooled to room temperature and 4M hydrochloric acid in diethyl ether (25 ml) was added. The mixture was placed at 0-5° C. over night at the resulting precipitated material was isolated by filtration and washed with cold ethanol and diethyl ether, affording the title compound (11.2 g) as a white crystalline material. 13C-NMR (DMSO-d6) δ 166.85, 147.15, 121.35, 70.03, 18.37.

reactant | N-Hydroxyphthalimide | 15.2 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 4-chloromethyl-2-methyl-thiazole | 18.4 g | ClCC=1N=C(SC1)C | C5H6ClNS
reactant | triethylamine | 28.6 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | O-(2-Methyl-thiazol-4-ylmethyl)-hydroxylamine hydrochloride | 11.2 g | Cl.CC=1SC=C(N1)CON | InChI=1S/C5H8N2OS.ClH/c1-4-7-5(2-8-6)3-9-4;/h3H,2,6H2,1H3;1H
